US05491145
Production of ethyl 5-bromo-2,2-dimethylvalerate
To a solution of 28.7 ml of diisopropylamine in 150 ml of tetrahydrofuran being stirred, 126 ml of a 1.6 M solution of n-butyl lithium in hexane wasadded at -5° to 0° C., followed by stirring for 30 minutes. After the reaction mixture was cooled to -78° C. and 26.7 ml of ethyl isobutyrate was added dropwise to the mixture and stirred for 1 hour. 41.8 g of 1,3-dibromopropane was added dropwise to the reaction mixture. After stirring at -78° C. for 1 hour and then at room temperature (15° to 20° C.) for 2 hours, the reaction mixture was added to an aqueous solution of ammonium chloride and extracted with ethyl acetate. After the extract was washed with water and dried, the solvent was distilled off, and the residue was distilled under reduced pressure, to yield 40.3 g of the title compound in the form of a colorless oily substance.

reactant | diisopropylamine | 28.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ethyl isobutyrate | 26.7 ml | C(C(C)C)(=O)OCC | C6H12O2
reactant | 1,3-dibromopropane | 41.8 g | BrCCCBr | C3H6Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | ethyl 5-bromo-2,2-dimethylvalerate | 40.3 g | BrCCCC(C(=O)OCC)(C)C | C9H17BrO2
